US09382188B2
B) 2,4-bis(benzyloxy)-2′-fluoro-5′-methoxy-1,1′-biphenyl
Under an argon atmosphere, to a solution of (((4-bromo-1,3-phenylene)bis(oxy))bis(methylene))dibenzene (21.8 g) in toluene (160 mL) were added 2-fluoro-5-methoxyphenylboronic acid (13.8 g), 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (2.23 g), tris(dibenzylideneacetone)dipalladium(0) (1.24 g) and 2.0 M aqueous sodium carbonate solution (81.0 mL), and the mixture was stirred at 80° C. for 14 hr. The reaction mixture was diluted with water, and filtered through celite. The filtrate was extracted with ethyl acetate, and the extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (22.1 g) as a pale-yellow oil.

reactant | (((4-bromo-1,3-phenylene)bis(oxy))bis(methylene))dibenzene | 21.8 g | BrC1=C(C=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C20H17BrO2
reactant | 2-fluoro-5-methoxyphenylboronic acid | 13.8 g | FC1=C(C=C(C=C1)OC)B(O)O | C7H8BFO3
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 2.23 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | sodium carbonate | 2.0 M, 81.0 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 160 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 1.24 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2,4-bis(benzyloxy)-2′-fluoro-5′-methoxy-1,1′-biphenyl | 22.1 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)C1=C(C=CC(=C1)OC)F | C27H23FO3
